US07064126B2
d) 1-(Diphenylmethyl)-3,5-dimethyl-(1H)-pyrazole-4-carboxaldehyde
To a hot solution of 1-(diphenylmethyl)-3,5-dimethyl-(1H)-pyrazole (25.0 g) in DMF (22 ml) was added phosphoryl chloride (8.87 ml) dropwise with stirring under nitrogen and the resulting mixture heated at 100° C. for 3 hr. It was cooled, diluted with water and dichloromethane and basified with 50% sodium hydroxide with ice/water cooling. It was extracted with dichloromethane, the organic extracts washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with ethyl acetate/i-hexane (1:19) followed by ethyl acetate to give the sub-title compound as a solid (12.61 g).

reactant | 1-(diphenylmethyl)-3,5-dimethyl-(1H)-pyrazole | 25.0 g | C1(=CC=CC=C1)C(N1N=C(C=C1C)C)C1=CC=CC=C1 | C18H18N2
reactant | phosphoryl chloride | 8.87 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 22 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(Diphenylmethyl)-3,5-dimethyl-(1H)-pyrazole-4-carboxaldehyde | 12.61 g | C1(=CC=CC=C1)C(N1N=C(C(=C1C)C=O)C)C1=CC=CC=C1 | C19H18N2O
